US08242130B2
In a 100 mL 3-neck round-bottomed flask fitted with condenser and magnetic stirrer were placed dry THF (20 mL) and p-methoxy acetophenone (0.386 g, 2.57 mmol) under nitrogen. To this solution, LHMDS (2.69 mL as a 1M solution in THF, 2.57 mmol) was added drop wise at 25° C. After completion of addition, the mixture was stirred for 30 min at rt, then 2,4,6-trifluoro-benzoyl chloride (0.5 g, 2.57 mmol) in THF (5 mL) was added slowly at rt via syringe. The reaction mixture was stirred overnight at rt. The reaction was quenched with saturated NH4Cl solution (10 mL). The organic layer was separated and aqueous layer was extracted with EtOAc. The combined organic layer was dries over Na2SO4, concentrated to give crude product, which was purified by column chromatography using 20% EtOAc in hexane, to give 215 mg of 1-(2,4,6-trifluoro-phenyl)-3-(4-methoxy-phenyl)-propane-1,3-dione (27%). 1-(2,4,6-trifluoro-phenyl)-3-(4-methoxy-phenyl)-propane-1,3-dione (100 mg) in DMSO (2 mL) was heated at 100-110° C. for 1 h. Then the reaction mixture was cooled to rt and diluted with water. The product was filtered and dried to give 62 mg of 5,7-difluoro-2-(4-methoxy-phenyl)-chromen-4-one (68%). MS (ES) m/z: 289.07 (M+1); 19F-NMR (DMSO-d6): δ −101.9, −109.2.

reactant | 1-(2,4,6-trifluoro-phenyl)-3-(4-methoxy-phenyl)-propane-1,3-dione | 100 mg | FC1=C(C(=CC(=C1)F)F)C(CC(=O)C1=CC=C(C=C1)OC)=O | C16H11F3O3
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5,7-difluoro-2-(4-methoxy-phenyl)-chromen-4-one | 62 mg, 68% | FC1=C2C(C=C(OC2=CC(=C1)F)C1=CC=C(C=C1)OC)=O | C16H10F2O3
